US07790724B2
1-(1-Methylsulfanyl-2-nitro-vinyl)-piperidine (WO 2000016766, 202 mg, 1.00 mmol) was reacted with hydrazine (30 μL, 1.0 mmol) in EtOH to afford (2-nitro-1-piperidin-1-yl-vinyl)-hydrazine and which was converted to 4-nitro-3-piperidin-1-yl-pyridazine following procedures analogous to literature methods (Tett. Lett. 41, 3619, (1977)).

reactant | 1-(1-Methylsulfanyl-2-nitro-vinyl)-piperidine | 1.00 mmol, 202 mg | CSC(=C[N+](=O)[O-])N1CCCCC1 | C8H14N2O2S
reactant | hydrazine | 1.0 mmol, 30 μL | NN | H4N2
solvent | EtOH | CCO | C2H6O
product | (2-nitro-1-piperidin-1-yl-vinyl)-hydrazine | [N+](=O)([O-])C=C(N1CCCCC1)NN | C7H14N4O2
